US05256675
A mixture of 2-amino-5-bromo-4-methylthiazole hydrochloride (1.15 g), 2-mercaptopyrimidine (0.6 g) and potassium carbonate (1.7 g) in N,N-dimethylformamide (20 ml) was heated at 90° C. for 3.5 hours with stirring. The reaction mixture was poured into ice water. The mixture was extracted with a mixture of tetrahydrofuran and ethyl acetate (1:1), washed with aqueous saturated sodium chloride and dried over magnesium sulfate. The solvent was concentrated under reduced pressure to give solid. The solid was subjected to column chromatography on silica gel (silica gel 60, 70-230 mesh,; Merck: 100 g) and eluted with a mixture of chloroform and methanol (10:1). The fractions containing the objective compound were combined and concentrated under reduced pressure to give 2-amino-4-methyl-5-(2-pyrimidinylthio)thiazole (0.65 g, yield: 58.0%). mp: 165°-170° C. (dec.) IR (Nujol): 3300, 3175, 1630, 1555, 1490, 1320 cm-1

reactant | 2-amino-5-bromo-4-methylthiazole hydrochloride | 1.15 g | Cl.NC=1SC(=C(N1)C)Br
reactant | 2-mercaptopyrimidine | 0.6 g | SC1=NC=CC=N1 | C4H4N2S
reactant | potassium carbonate | 1.7 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 2-amino-4-methyl-5-(2-pyrimidinylthio)thiazole | 0.65 g, yield: 58.0% | NC=1SC(=C(N1)C)SC1=NC=CC=N1 | C8H8N4S2
